US05135944
1,6-Bis[2-(3,4-dihydroxybenzyl)pyrrolidin-1-yl]hexane dihydrobromide
A solution of 1,6-bis[2-(3,4-dimethoxybenzyl)pyrrolidin-1-yl]hexane (2.2 g, 4.4 mmol), from Step 2, was heated in 48% hydrobromic acid (11 mL) at reflux temperature for 3 hours (the reaction was followed by TLC on silica gel). The solution was cooled to room temperature; and the aqueous phase was decanted from the oil, which separated from solution. Toluene was added to this oil and then removed in vacuo. This addition and removal of toluene was repeated several times to remove water and hydrogen bromide. The residual solid, 1,6-bis[2-(3,4-dihydroxybenzyl)pyrrolidin-1-yl]hexane dihydrobromide, a mixture of the R,R-; S,S-; and R,S-stereoisomers, was obtained as a foam.

reactant | 1,6-bis[2-(3,4-dimethoxybenzyl)pyrrolidin-1-yl]hexane | 4.4 mmol, 2.2 g | COC=1C=C(CC2N(CCC2)CCCCCCN2C(CCC2)CC2=CC(=C(C=C2)OC)OC)C=CC1OC | C32H48N2O4
reactant | hydrobromic acid | 11 mL | Br | BrH
product | 1,6-Bis[2-(3,4-dihydroxybenzyl)pyrrolidin-1-yl]hexane dihydrobromide | Br.Br.OC=1C=C(CC2N(CCC2)CCCCCCN2C(CCC2)CC2=CC(=C(C=C2)O)O)C=CC1O | InChI=1S/C28H40N2O4.2BrH/c31-25-11-9-21(19-27(25)33)17-23-7-5-15-29(23)13-3-1-2-4-14-30-16-6-8-24(30)18-22-10-12-26(32)28(34)20-22;;/h9-12,19-20,23-24,31-34H,1-8,13-18H2;2*1H
